US07138397B2
A mixture comprising 10 g of trans-4-(tert-butoxycarbonylamino)cyclohexanecarboxylic acid, 7.93 g of 2-chloro-3-aminopyridine, 10.2 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, 6.5 g of 4-dimethylaminopyridine, and 180 mL of N,N-dimethylformamide was stirred at room temperature for 15 hours. To the reaction mixture was added an aqueous sodium hydrogencarbonate solution to make the solution alkaline, and extracted with ethyl acetate. The extract was washed with water and brine, dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure to obtain trans-4-tert-butoxycarbonylamino-N-(2-chloro-3-pyridyl)cyclohexanecarboxamide.

reactant | trans-4-(tert-butoxycarbonylamino)cyclohexanecarboxylic acid | 10 g | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)C(=O)O | C12H21NO4
reactant | 2-chloro-3-aminopyridine | 7.93 g | ClC1=NC=CC=C1N | C5H5ClN2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 10.2 g | Cl.CN(CCCN=C=NCC)C
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
catalyst | 4-dimethylaminopyridine | 6.5 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | 180 mL | CN(C=O)C | C3H7NO
product | trans-4-tert-butoxycarbonylamino-N-(2-chloro-3-pyridyl)cyclohexanecarboxamide | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)C(=O)NC=1C(=NC=CC1)Cl | C17H24ClN3O3
